US08703810B2
To a solution of 1-(chloromethyl)-3-fluoro-5-methoxybenzene (2.9 g, 17 mmol) in DMSO (20 mL), a solution of KCN (2.2 g, 34 mmol) and KI (5.6 g, 34 mmol) in H2O (10 mL) was added. The mixture was stirred at 45° C. for 6 h, poured into H2O (20 mL), and extracted with DCM (3×30 mL). The organic phase was washed with brine (2×10 mL), dried over Na2SO4, and concentrated to give 2.62 g of 2-(3-fluoro-5-methoxyphenyl)acetonitrile. 1H NMR (CDCl3): δ 6.62-6.68 (m, 2H), 6.56-6.60 (m, 1H), 3.80 (s, 3H), 3.70 (s, 2H).

reactant | 1-(chloromethyl)-3-fluoro-5-methoxybenzene | 17 mmol, 2.9 g | ClCC1=CC(=CC(=C1)OC)F | C8H8ClFO
reactant | KCN | 34 mmol, 2.2 g | [C-]#N.[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 20 mL | O | H2O
product | 2-(3-fluoro-5-methoxyphenyl)acetonitrile | 2.62 g | FC=1C=C(C=C(C1)OC)CC#N | C9H8FNO
